US04001222
3-(2-Aminopropionyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin Hydrochloride
The 3-[2-(t-butoxycarbonyl-amino)propionyl]-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin (15.1 g, 0.033 mole) was added to 3% hydrochloric acid/acetic (185 ml) and was stirred for 2 hours. The mixture was filtered and the collected solid was washed with nitromethane and ether which yielded 10.4 g (70%, 25% overall), m.p. 192°-196°.

reactant | 3-[2-(t-butoxycarbonyl-amino)propionyl]-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin | 0.033 mole, 15.1 g | C(C)(C)(C)OC(=O)NC(C(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC(=C(C=C1)Cl)Cl)=O)C | C22H22Cl2N4O6
reactant | hydrochloric acid acetic | 185 ml | Cl.CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C
product | 3-(2-Aminopropionyl)-1-{[5-(3,4-dichlorophenyl)furfurylidene]amino}hydantoin Hydrochloride | Cl.NC(C(=O)N1C(N(CC1=O)N=CC1=CC=C(O1)C1=CC(=C(C=C1)Cl)Cl)=O)C | InChI=1S/C17H14Cl2N4O4.ClH/c1-9(20)16(25)23-15(24)8-22(17(23)26)21-7-11-3-5-14(27-11)10-2-4-12(18)13(19)6-10;/h2-7,9H,8,20H2,1H3;1H
